### PR TITLE
[Merged by Bors] - feat: port MeasureTheory.Function.L1Space

### PR DESCRIPTION
**Pull request by Komyyy**
---

*
[`measure_theory.function.l1_space`@`9b33e5f30c5f161e1d1b16b6b9b922bf49943377`..`13b0d72fd8533ba459ac66e9a885e35ffabb32b2`](https://leanprover-community.github.io/mathlib-port-status/file/measure_theory/function/l1_space?range=9b33e5f30c5f161e1d1b16b6b9b922bf49943377..13b0d72fd8533ba459ac66e9a885e35ffabb32b2)
- [x] depends on: #4374
- [x] depends on: https://github.com/leanprover-community/mathlib/pull/19073
- [x] depends on: #4399

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
This PR/issue depends on:
* leanprover-community/mathlib4#4374
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Review by eric-wieser — CHANGES_REQUESTED** [review]
Please rebase this on the latest `starT_port.sh` output for l1_space (once the dependencies are merged), as the current version was ported from a file that said "please wait for ..." and did not wait.

**Comment by semorrison** [comment]
This PR/issue depends on:
* ~~leanprover-community/mathlib4#4374~~
* ~~leanprover-community/mathlib#19073~~
* ~~leanprover-community/mathlib4#4399~~
By **[Dependent Issues](https://github.com/z0al/dependent-issues)** (🤖). Happy coding!

**Comment by eric-wieser** [comment]
Something has gone wrong with your rebase here.

**Comment by eric-wieser** [comment]
Can you squash your commits down to:

* The three latest mathport ones
* All of your changes

Having 80 commits here makes this very unpleasant to review!

**Comment by Komyyy** [comment]
I was puzzled to rebase commits, sorry.

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 1]
```diff
@@ -425,44 +429,49 @@ end NormedSpace
...
+  `Integrable f` means `Integrable f volume`. -/
+def Integrable {α} {_ : MeasurableSpace α} (f : α → β) (μ : Measure α := by volume_tac) : Prop :=
   AEStronglyMeasurable f μ ∧ HasFiniteIntegral f μ
 #align measure_theory.integrable MeasureTheory.Integrable
 
+theorem integrable_eq {α} {_ : MeasurableSpace α} (f : α → β) (μ : Measure α) :
+    Integrable f μ = (AEStronglyMeasurable f μ ∧ HasFiniteIntegral f μ) :=
+  rfl
+
+attribute [eqns integrable_eq] Integrable
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/L1Space.lean:442]: This needs a porting note. It should also be an `Iff`.

**Review by eric-wieser — APPROVED** [review]

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 2]
```diff
@@ -435,11 +436,12 @@ def Integrable {α} {_ : MeasurableSpace α} (f : α → β) (μ : Measure α :=
   AEStronglyMeasurable f μ ∧ HasFiniteIntegral f μ
 #align measure_theory.integrable MeasureTheory.Integrable
 
-theorem integrable_eq {α} {_ : MeasurableSpace α} (f : α → β) (μ : Measure α) :
-    Integrable f μ = (AEStronglyMeasurable f μ ∧ HasFiniteIntegral f μ) :=
-  rfl
+-- Porting note: Lean can't generate an equation lemma for this.
```
Comment (eric-wieser) [inline Mathlib/MeasureTheory/Function/L1Space.lean:439]: I don't really understand this comment; what happens without this theorem?

Comment (Komyyy) [reply Mathlib/MeasureTheory/Function/L1Space.lean:439]: Without this theorem, `rw [Integrable]` doesn't work correctly.
```lean
theorem integrable_const_iff {c : β} : Integrable (fun _ : α => c) μ ↔ c = 0 ∨ μ univ < ∞ := by
  have : AEStronglyMeasurable (fun _ : α => c) μ := aestronglyMeasurable_const
  rw [Integrable, and_iff_right this, hasFiniteIntegral_const_iff]
-- failed to rewrite using equation theorems for 'MeasureTheory.Integrable'
```

Comment (eric-wieser) [reply Mathlib/MeasureTheory/Function/L1Space.lean:439]: Can you check what the equation lemmas it does generate are? I think we should be clear in the comment whether the problem is:
* The equation lemma generated is nonsense
* No equation lemmas are generated

Comment (Komyyy) [reply Mathlib/MeasureTheory/Function/L1Space.lean:439]: An equation lemma is generated correctly, but when it is used in `rw`, the equation lemma is re-elaborated so the `μ` argument is filled by `volume_tac`, and the error occurs because there are no `MeasureSpace` instance.
I will describe this in Porting note.

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 3]
```diff
@@ -52,9 +52,11 @@ integrable, function space, l1
 
 noncomputable section
 
-open scoped Classical Topology BigOperators ENNReal MeasureTheory NNReal
+set_option linter.uppercaseLean3 false
```
Comment (urkud) [inline Mathlib/MeasureTheory/Function/L1Space.lean:55]: Can we add an exception to the global list instead of turning off the linter for the whole file?

File: Mathlib/MeasureTheory/Function/L1Space.lean (hunk 2 above)
Comment (eric-wieser) [reply Mathlib/MeasureTheory/Function/L1Space.lean]: I think this is worth opening an issue (or at least, a zulip thread) about. There's no way that this behavior is useful.

Comment (Komyyy) [reply Mathlib/MeasureTheory/Function/L1Space.lean]: I've submitted the [issue](https://github.com/leanprover/lean4/issues/2243).

Comment (Komyyy) [reply Mathlib/MeasureTheory/Function/L1Space.lean]: My explanation was wrong. Indeed, `rewrite` fails even without `MeasureSpace` dependency:
```lean
import Lean

open Lean Elab Tactic in
elab "exact_false" : tactic =>
  closeMainGoal (mkConst ``Bool.false)

def f (b : Bool := by exact_false) : Nat := bif b then 1 else 0

example : f false = bif false then 1 else 0 := by rw [f]
example : f true = bif true then 1 else 0 := by rw [f]
example (b : Bool) : f b = bif b then 1 else 0 := by rw [f]
```

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 4]
```diff
@@ -104,46 +104,51 @@ theorem lintegral_nnnorm_neg {f : α → β} : (∫⁻ a, ‖(-f) a‖₊ ∂μ)
...
-      lintegral_mono_ae (h.mono fun a h => of_real_le_of_real h)
+      lintegral_mono_ae (h.mono fun a h => ofReal_le_ofReal h)
     _ < ∞ := hg
-    
 #align measure_theory.has_finite_integral.mono MeasureTheory.HasFiniteIntegral.mono
 
 theorem HasFiniteIntegral.mono' {f : α → β} {g : α → ℝ} (hg : HasFiniteIntegral g μ)
     (h : ∀ᵐ a ∂μ, ‖f a‖ ≤ g a) : HasFiniteIntegral f μ :=
-  hg.mono <| h.mono fun x hx => le_trans hx (le_abs_self _)
+  hg.mono <| h.mono fun _x hx => le_trans hx (le_abs_self _)
```
Comment (semorrison) [inline Mathlib/MeasureTheory/Function/L1Space.lean:151]: I generally prefer to replace unused arguments just with `_` where possible, but it's not a big deal.

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 5]
```diff
@@ -323,40 +331,37 @@ theorem tendsto_lintegral_norm_of_dominated_convergence {F : ℕ → α → β}
...
   · rwa [lintegral_zero] at h
   -- Using the dominated convergence theorem.
   refine' tendsto_lintegral_of_dominated_convergence' _ _ hb _ _
   -- Show `λa, ‖f a - F n a‖` is almost everywhere measurable for all `n`
-  ·
-    exact fun n =>
-      measurable_of_real.comp_ae_measurable ((F_measurable n).sub f_measurable).norm.AEMeasurable
+  · exact fun n =>
+      measurable_ofReal.comp_aemeasurable ((F_measurable n).sub f_measurable).norm.aemeasurable
   -- Show `2 * bound` is has_finite_integral
```
Comment (semorrison) [inline Mathlib/MeasureTheory/Function/L1Space.lean:357]:
```suggestion
  -- Show `2 * bound` is `HasFiniteIntegral`
```

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 6]
```diff
@@ -934,34 +956,36 @@ noncomputable def withDensitySmulLi {f : α → ℝ≥0} (f_meas : Measurable f)
       simpa only [Ne.def, ENNReal.coe_eq_zero] using hx
   norm_map' := by
     intro u
-    simp only [snorm, LinearMap.coe_mk, Lp.norm_to_Lp, one_ne_zero, ENNReal.one_ne_top,
-      ENNReal.one_toReal, if_false, snorm', ENNReal.rpow_one, _root_.div_one, Lp.norm_def]
-    rw [lintegral_with_density_eq_lintegral_mul_non_measurable _ f_meas.coe_nnreal_ennreal
+    simp only [snorm, LinearMap.coe_mk,
+      AddHom.coe_mk (M := Lp E 1 (μ.withDensity fun x => f x)) (N := Lp E 1 μ), Lp.norm_toLp,
+      one_ne_zero, ENNReal.one_ne_top, ENNReal.one_toReal, if_false, snorm', ENNReal.rpow_one,
+      _root_.div_one, Lp.norm_def]
```
Comment (semorrison) [inline Mathlib/MeasureTheory/Function/L1Space.lean:962]: Perhaps a porting note here about the `AddHom.coe_mk`? This should eventually be revisited, and perhaps a better simp lemma can be found.

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 7]
```diff
@@ -1347,24 +1389,27 @@ theorem toL1_sub (f g : α → β) (hf : Integrable f μ) (hg : Integrable g μ)
 #align measure_theory.integrable.to_L1_sub MeasureTheory.Integrable.toL1_sub
 
 theorem norm_toL1 (f : α → β) (hf : Integrable f μ) :
-    ‖hf.toL1 f‖ = ENNReal.toReal (∫⁻ a, edist (f a) 0 ∂μ) := by simp [to_L1, snorm, snorm'];
+    ‖hf.toL1 f‖ = ENNReal.toReal (∫⁻ a, edist (f a) 0 ∂μ) := by
+  simp [toL1, snorm, snorm']
   simp [edist_eq_coe_nnnorm]
```
Comment (semorrison) [inline Mathlib/MeasureTheory/Function/L1Space.lean]: Can these just be combined?

File: Mathlib/MeasureTheory/Function/L1Space.lean [hunk 8]
```diff
@@ -1347,24 +1389,27 @@ theorem toL1_sub (f g : α → β) (hf : Integrable f μ) (hg : Integrable g μ)
...
-  rw [norm_to_L1, lintegral_norm_eq_lintegral_edist]
+  rw [norm_toL1, lintegral_norm_eq_lintegral_edist]
 #align measure_theory.integrable.norm_to_L1_eq_lintegral_norm MeasureTheory.Integrable.norm_toL1_eq_lintegral_norm
 
 @[simp]
 theorem edist_toL1_toL1 (f g : α → β) (hf : Integrable f μ) (hg : Integrable g μ) :
     edist (hf.toL1 f) (hg.toL1 g) = ∫⁻ a, edist (f a) (g a) ∂μ := by
-  simp [integrable.to_L1, snorm, snorm']; simp [edist_eq_coe_nnnorm_sub]
+  simp [Integrable.toL1, snorm, snorm']
+  simp [edist_eq_coe_nnnorm_sub]
```
Comment (semorrison) [inline Mathlib/MeasureTheory/Function/L1Space.lean:1406]: Similarly here, and below, apparently nonterminal simps that should be combined with the subsequent simp.

**Comment by semorrison** [comment]
bors d+

File: Mathlib/MeasureTheory/Function/L1Space.lean (hunk 7 above)
Comment (Komyyy) [reply Mathlib/MeasureTheory/Function/L1Space.lean]: These can't because `snorm` must be used earlier than `edist_eq_coe_nnnorm`.

File: Mathlib/MeasureTheory/Function/L1Space.lean (hunk 8 above)
Comment (Komyyy) [reply Mathlib/MeasureTheory/Function/L1Space.lean:1407]: These can't because `snorm` must be used earlier than `edist_eq_coe_nnnorm`.

File: Mathlib/MeasureTheory/Function/L1Space.lean (hunk 4 above)
Comment (Komyyy) [reply Mathlib/MeasureTheory/Function/L1Space.lean:151]: I usually use `_` for unused arguments, but when the name of the unused argument is used in following hypotheses (like `hx` in this example), I use `_x` to make the name of hypotheses easy to understood.
